US04780538
3.8 grams (30 millimoles) of 3-(2-aminoethyl)thiophene was added dropwise with stirring at room temperature to 3.6 grams (31 millimoles) of methyl acetoacetate and the stirring was continued over the weekend at ambient temperature. Thereafter, the mixture was diluted with 250 milliliters of diethyl ether and the resulting ether solution washed with 50 milliliters of brine and then dried over sodium sulfate. The ether solvent was then vaporized from the dried and filtered solution to obtain 6.59 grams of a methyl 3-[(3-thienyl)ethyl]aminocrotonate intermediate as a slightly yellowish oil.

reactant | 3-(2-aminoethyl)thiophene | 30 millimoles, 3.8 grams | NCCC1=CSC=C1 | C6H9NS
reactant | methyl acetoacetate | 31 millimoles | C(CC(=O)C)(=O)OC | C5H8O3
solvent | diethyl ether | 250 milliliters | C(C)OCC | C4H10O
product | methyl 3-[(3-thienyl)ethyl]aminocrotonate | 6.59 grams | S1C=C(C=C1)CCN\C(=C/C(=O)OC)\C | C11H15NO2S
